US06124381
Into a four-necked flask equipped with a stirrer, a thermometer and a condenser, 18.5 g (0.1 mol) of cyanuric chloride and 150 ml of acetonitrile were dissolved at room temperatures, followed by adding dropwise a mixed solution containing of 7.3 g (0.1 mol) of n-butyl amine and 20 g of an ion-exchanged water over 2 hours while maintaining at a reaction temperature of not more than 5° C. After that, a solution containing of 10 g (0.1 mol) of potassium hydrogen carbonate and 40 g of an ion-exchanged water was added dropwise over 1 hour while maintaining the temperature at not more than 5° C., followed by adding dropwise 15.2 g (0.25 mol) of 28% aqueous ammonia at the same temperature and stirring at 50° C. for 4 hours after gradually heating. After that, a product was filtered and washed with a large quantity of an ion-exchanged water, followed by drying in vacuo to obtain 2-amino-4-butylamino-6-chloro-1,3,5-triazine which is an intermediate raw material. Total quantity of the raw material was dispersed into 100 g of an ion-exchanged water, followed by adding 8.1 g (0.11 mol) of n-butyl amine and raising the temperature to a reflux temperature while stirring and reacting for 2 hours. Further, a solution containing 4.0 g (0.1 mol) by weight of sodium hydroxide and 20 g of an ion-exchanged water was dropwise added over 1 hour, followed by allowing to react at the reflux temperature for 2 hours. After cooling to room temperatures, a product was extracted with 100 ml of toluene, and an organic layer was washed five times with 80 ml of an ion-exchanged water, followed by distilling off solvents at reduced pressure to obtain 27 g of 2-amino-4,6-bis(monobutylamino)-1,3,5-triazine.

reactant | cyanuric chloride | 0.1 mol, 18.5 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | n-butyl amine | 0.1 mol, 7.3 g | C(CCC)N | C4H11N
reactant | potassium hydrogen carbonate | 0.1 mol, 10 g | C(O)([O-])=O.[K+]
reactant | ammonia | 0.25 mol, 15.2 g | N | H3N
solvent | water | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-amino-4-butylamino-6-chloro-1,3,5-triazine | NC1=NC(=NC(=N1)NCCCC)Cl | C7H12ClN5
